US04814344
1 -(1-Methyl-2-phenyl-1H-indol-3-yl)-1-ethanone
Dimethylsulphoxide (12 ml) and potassium carbonate (3.31 g) were stirred for 10 min. and then 1-(2-phenyl-1H-indol-3-yl)-1-ethanone (1.41 g) was added and stirring was continued for a further 40 min. Iodomethane (0.75 ml) was added and the mixture was stirred for 2.75 h. Water (30 ml) was added and the mixture was extracted with ether (3×40 ml). The combined organic extracts were washed with water (4×40 ml), dried, and evaporated to leave an oil which was crystallised from cyclohexane to give the title compound (1.27 g), m.p. 76°-77°.

reactant | Dimethylsulphoxide | 12 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 3.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-phenyl-1H-indol-3-yl)-1-ethanone | 1.41 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C(C)=O | C16H13NO
reactant | Iodomethane | 0.75 ml | IC | CH3I
solvent | Water | 30 ml | O | H2O
product | 1 -(1-Methyl-2-phenyl-1H-indol-3-yl)-1-ethanone | 1.27 g | CN1C(=C(C2=CC=CC=C12)C(C)=O)C1=CC=CC=C1 | C17H15NO
